US08076482B2
Preparation of intermediate E/Z-6-chloro-3-(5-chloro-4-fluoro-2-methoxy-benzylidene)-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester
To a solution of E/Z-6-chloro-3-(5-chloro-4-fluoro-2-methoxy-benzylidene)-1,3-dihydro-indol-2-one (4.5 g, 13.3 mmol) in dichloromethane (50 mL) at room temperature was added di-tert-butyl-dicarbonate (3.5 g, 16 mmol), followed by the addition of 4-dimethylaminopyridine (1 g, 8.2 mmol). After stirred at room temperature for 2 h, the solution was concentrated and the residue was purified by flash chromatography to give the title compound as a orange solid (4 g).

reactant | Z-6-chloro-3-(5-chloro-4-fluoro-2-methoxy-benzylidene)-1,3-dihydro-indol-2-one | 13.3 mmol, 4.5 g | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C1=C(C=C(C(=C1)Cl)F)OC | C16H10Cl2FNO2
reactant | di-tert-butyl-dicarbonate | 16 mmol, 3.5 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 8.2 mmol, 1 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Z-6-chloro-3-(5-chloro-4-fluoro-2-methoxy-benzylidene)-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 4 g | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=C(C(=C1)Cl)F)OC)=O | C21H18Cl2FNO4
